US06448442B1
a. 5-[N′-(2,3,4-Triacetoxybutanoyl)amino]-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide
5-Amino-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide (30.0 g, 40.3 mmol) was dissolved in dry N,N-dimethylacetamide (50 ml) and added dropwise to 2,3,4-triacetoxybutanoyl bromide (26.0 g, 0.93 mol) at 0° C. The mixture was stirred at ambient temperature for 5 h, and then added slowly to an aqueous solution of NaHCO3 (5%, 500 ml). A semi-crystalline precipitate was formed, filtered off and dissolved in ethyl acetate (200 ml). The organic phase was washed three times with diluted HCl (5%, 80 ml) and then twice with water (80 ml). After drying (Na2SO4) the solvent was evaporated to a semisolid residue. The residue was purified on a column of silica using methylene chloride/acetonitrile (4:1-3:2) as the eluent. The solvent was evaporated and the residue was further purified by preparative HPLC to give 13.8 g (35%) of the product.

reactant | 5-Amino-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide | 40.3 mmol, 30.0 g | NC=1C(=C(C(=C(C(=O)NCC(COC(C)=O)OC(C)=O)C1I)I)COC(C)=O)I | C17H19I3N2O7
reactant | 2,3,4-triacetoxybutanoyl bromide | 0.93 mol, 26.0 g | C(C)(=O)OC(C(=O)Br)C(COC(C)=O)OC(C)=O | C10H13BrO7
reactant | NaHCO3 | 500 ml | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethylacetamide | 50 ml | CN(C(C)=O)C | C4H9NO
product | 5-[N′-(2,3,4-Triacetoxybutanoyl)amino]-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide | 13.8 g, 35% | C(C)(=O)OC(C(=O)NC=1C(=C(C(=C(C(=O)NCC(COC(C)=O)OC(C)=O)C1I)I)COC(C)=O)I)C(COC(C)=O)OC(C)=O | C27H31I3N2O14
